### PR TITLE
[Merged by Bors] - feat(Topology/MetricSpace/Similarity): define Similar

### PR DESCRIPTION
**Pull request by newell**
Feat: Add `Similiarty` in `Topology.MetricSpace.Similarity`

This is a port of a mathlib branch:

https://github.com/leanprover-community/mathlib/pull/18214

See #7478 for more context.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by urkud** [comment]
Is it the same as https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/MetricSpace/Dilation.html#Dilation ?

**Comment by jsm28** [comment]
This one is a predicate on two indexed families of points, `Dilation` is a map on PseudoEMetricSpaces such that this predicate holds for all families of points. The converse - that this predicate on two indexed families can be extended to a `Dilation` from the first space to the second that maps the first indexed family to the second - is a theorem that holds under appropriate conditions in Euclidean spaces (as discussed on Zulip, existing lemmas about distances and inner products for affine combinations should provide most of what's needed to prove that theorem), but not in more general metric space context.

On the whole I think we should probably get #7478 sorted out before this one, though I don't think there's any actual dependency between them.

Note that the mathlib3 PRs also include various Euclidean results about congruence and similarity for angles and triangles, that haven't been ported to Lean 4 as far as I know (but of course the basic metric space content should be dealt with first).

**Comment by newell** [comment]
I don't have the time right now (maybe in the future??) to work on these PRs (this one and #7478).  If the changes they introduce are needed, feel free to take them over.

**Comment by kbuzzard** [comment]
@JovanGerb you are down as an author of the file being PRed! Perhaps because you wrote the original Lean 3 code? Do you have any comments on this PR?

File: Mathlib/Topology/MetricSpace/Similarity.lean [hunk 1]
```diff
@@ -0,0 +1,145 @@
...
+Copyright (c) 2024 Jovan Gerbscheid. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jovan Gerbscheid, Newell Jensen
+-/
+import Mathlib.Topology.MetricSpace.Congruence
+
+/-!
+# Similarities
+
+This file defines `Similarity`, i.e., the equivalence between sets of points in a metric space
```
Comment (kbuzzard) [inline Mathlib/Topology/MetricSpace/Similarity.lean:11]:
```suggestion
This file defines `Similarity`, i.e., the equivalence between indexed sets of points in a metric space
```

File: Mathlib/Topology/MetricSpace/Similarity.lean [hunk 2]
```diff
@@ -0,0 +1,145 @@
...
+where all corresponding pairwise distances have the same ratio. The motivating example are
```
Comment (kbuzzard) [inline Mathlib/Topology/MetricSpace/Similarity.lean:12]:
```suggestion
where all corresponding pairwise distances have the same ratio. The motivating example is
```

File: Mathlib/Topology/MetricSpace/Similarity.lean [hunk 3]
```diff
@@ -0,0 +1,145 @@
...
+triangles in the plane.
+
+## Implementation notes
+
+For more details see the [Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Euclidean.20Geometry).
+
+## Notation
+
```
Comment (kbuzzard) [inline Mathlib/Topology/MetricSpace/Similarity.lean:20]:
```suggestion
Let `P₁` and `P₂` be metric spaces, let `ι` be an index set, and let `v₁ : ι → P₁` and `v₂ : ι → P₂` be indexed families of points.

```

**Review by kbuzzard — APPROVED** [review]

**Comment by JovanGerb** [comment]
I would prefer to call this `Similar`, analogous to `Congruent` (because we say two triangles are congruent/similar)

File: Mathlib/Topology/MetricSpace/Similarity.lean [hunk 4]
```diff
@@ -0,0 +1,145 @@
...
+  (exists_congr <| fun _ => and_congr Iff.rfl <| forall₂_congr <|
+    fun _ _ => by { rw [dist_nndist, dist_nndist]; norm_cast })
+
+lemma Congruent.similarity [PseudoEMetricSpace P₁] [PseudoEMetricSpace P₂] {v₁ : ι → P₁}
+    {v₂ : ι → P₂} (h : Congruent v₁ v₂) : Similarity v₁ v₂ :=
+  ⟨1, one_ne_zero, fun i₁ i₂ ↦ by simpa using h i₁ i₂⟩
+
+namespace Similarity
+
+/-- Similarity preserves extended distance. -/
```
Comment (JovanGerb) [inline Mathlib/Topology/MetricSpace/Similarity.lean:65]: I think "scales" is a better word than "preserves".

Can you also make these comments align with how they are for `Congruent`? So for this one:
/-- A similarity scales extended distance. Forward direction of `similarity_iff_exists_edist_eq` -/

File: Mathlib/Topology/MetricSpace/Similarity.lean [hunk 5]
```diff
@@ -0,0 +1,145 @@
...
+@[refl] protected lemma refl (v₁ : ι → P₁): v₁ ∼ v₁ :=
+  ⟨1, one_ne_zero, fun _ _ => by {norm_cast; rw [one_mul]}⟩
+
+@[symm] protected lemma symm (h : v₁ ∼ v₂) : v₂ ∼ v₁ := by
+  rcases h with ⟨r, hr, h⟩
+  refine ⟨r⁻¹, inv_ne_zero hr, fun _ _ => ?_⟩
+  rw [ENNReal.coe_inv hr, ← ENNReal.div_eq_inv_mul, ENNReal.eq_div_iff _ ENNReal.coe_ne_top, h]
+  norm_cast
+
+lemma _root_.similarity_comm : v₁ ∼ v₂ ↔ v₂ ∼ v₁ := ⟨Similarity.symm, Similarity.symm⟩
```
Comment (JovanGerb) [inline Mathlib/Topology/MetricSpace/Similarity.lean:123]: Should this be named `similar_comm`? And should `congruence_comm` be renamed to `congruent_comm`?

File: Mathlib/Topology/MetricSpace/Similarity.lean [hunk 6]
```diff
@@ -0,0 +1,145 @@
...
+    have := h hn
+    simp_rw [dist_nndist] at this
+    norm_cast at this)
+
+
+section PseudoEMetricSpace
+
+variable [PseudoEMetricSpace P₁] [PseudoEMetricSpace P₂] [PseudoEMetricSpace P₃]
+
+@[refl] protected lemma refl (v₁ : ι → P₁): v₁ ∼ v₁ :=
```
Comment (JovanGerb) [inline Mathlib/Topology/MetricSpace/Similarity.lean:114]:
```suggestion
@[refl] protected lemma refl (v₁ : ι → P₁) : v₁ ∼ v₁ :=
```

File: Mathlib/Topology/MetricSpace/Similarity.lean [hunk 7]
```diff
@@ -0,0 +1,145 @@
...
+  refine ⟨r₁ * r₂, mul_ne_zero hr₁ hr₂, fun _ _ => ?_⟩
+  rw [ENNReal.coe_mul, mul_assoc, h₁, h₂]
+
+lemma index_map (h : v₁ ∼ v₂) (f : ι' → ι) : (v₁ ∘ f) ∼ (v₂ ∘ f) := by
+  rcases h with ⟨r, hr, h⟩
+  refine ⟨r, hr, fun _ _ => ?_⟩
+  apply h
+
+@[simp]
+lemma index_equiv (f : ι' ≃ ι) (v₁ : ι → P₁) (v₂ : ι → P₂) :
```
Comment (JovanGerb) [inline Mathlib/Topology/MetricSpace/Similarity.lean:136]: Can these get the same doc-strings as in `Congruent`?

**Comment by JovanGerb** [comment]
Since `Similar` does essentially the same as `Congruent`, I'd like the two files the look the same as much as possible. Two differences are:
- For `Congruent`, the different `dist_eq` results are separated by `PseudoMetricSpace` and `PseudoEMetricSpace`, whereas in `Similar`, they are put together. I prefer having them together.
- For `Congruent`, the `dist_eq` results have a duplicate version using `Pairwise`. `Similar` doesn't have this. I'd think we either want this in both, or in neither.

File: Mathlib/Topology/MetricSpace/Similarity.lean (hunk 5 above)
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Similarity.lean]: Renamed here. Renaming in the other file seems out of scope for this PR.

**Comment by jsm28** [comment]
I've now split the results into sections by type class requirements (so avoiding such requirements on individual lemmas, putting them all in `variable` instead), as in the other file.

File: Mathlib/Topology/MetricSpace/Similarity.lean (hunk 4 above)
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Similarity.lean]: Now says "scales". And doc strings now better aligned, I hope.

File: Mathlib/Topology/MetricSpace/Similarity.lean (hunk 7 above)
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Similarity.lean]: Added those doc strings.

**Comment by jsm28** [comment]
The name `Similar` is now used in place of `Similarity`.

**Comment by jsm28** [comment]
I've now aligned the `Pairwise` lemmas with those for `Congruent`, I hope.

**Comment by jsm28** [comment]
I think all the requested changes are now made (or explicitly not made, in the cases of changes suggested to the other file - for the splitting by sections, I prefer the approach split by type class assumptions anyway).

File: Mathlib/Topology/MetricSpace/Similarity.lean [hunk 8]
```diff
@@ -0,0 +1,192 @@
...
+/-- Similarity between indexed sets of vertices v₁ and v₂.
+Use `open scoped Similar` to access the `v₁ ∼ v₂` notation. -/
+
+def Similar (v₁ : ι → P₁) (v₂ : ι → P₂) : Prop :=
+  ∃ r : NNReal, r ≠ 0 ∧ ∀ (i₁ i₂ : ι), (edist (v₁ i₁) (v₁ i₂) = r * edist (v₂ i₁) (v₂ i₂))
+
+@[inherit_doc]
+scoped[Similar] infixl:25 " ∼ " => Similar
+
+/-- A similarity holds if and only if and only if all extended distances are proportional. -/
```
Comment (JovanGerb) [inline Mathlib/Topology/MetricSpace/Similarity.lean:41]:
```suggestion
/-- A similarity holds if and only if all extended distances are proportional. -/
```
Similarly for a couple other docstrings

Comment (JovanGerb) [reply Mathlib/Topology/MetricSpace/Similarity.lean]: There are a few more copies of this mistake

Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Similarity.lean]: All fixed.

File: Mathlib/Topology/MetricSpace/Similarity.lean [hunk 9]
```diff
@@ -0,0 +1,192 @@
...
+
+/-- Similarity holds if and only if all non-negative distances are proportional. -/
+lemma similar_iff_exists_nndist_eq :
+    Similar v₁ v₂ ↔ (∃ r : NNReal, r ≠ 0 ∧ ∀ (i₁ i₂ : ι), (nndist (v₁ i₁) (v₁ i₂) =
+      r * nndist (v₂ i₁) (v₂ i₂))) :=
+  exists_congr <| fun _ => and_congr Iff.rfl <| forall₂_congr <|
+  fun _ _ => by { rw [edist_nndist, edist_nndist]; norm_cast }
+
+/-- A similarity holds if and only if all non-negative distances between points with different
+indices are proportional. -/
```
Comment (JovanGerb) [inline Mathlib/Topology/MetricSpace/Similarity.lean:134]: Which is more correct, "Similarity holds iff" or "A similarity holds iff"? I'd go for
- Similarity holds if and only if ..
- Similarity follows from ..
- A similarity scales ..

Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Similarity.lean]: I've made those further suggested changes.

File: Mathlib/Topology/MetricSpace/Similarity.lean [hunk 10]
```diff
@@ -0,0 +1,192 @@
...
+
+/-- Similarity follows from pairwise scaled extended distance. Backward direction of
+`similar_iff_exists_pairwise_edist_eq`. -/
+alias ⟨_, of_exists_pairwise_edist_eq⟩ := similar_iff_exists_pairwise_edist_eq
+
+/-- Similarity follows from pairwise scaled extended distance. -/
+lemma of_pairwise_exists_edist_eq
+    {r : NNReal} (hr : r ≠ 0) (h : Pairwise (fun i₁ i₂ => (edist (v₁ i₁) (v₁ i₂) =
+      r * edist (v₂ i₁) (v₂ i₂)))) :
+    v₁ ∼ v₂ := by
```
Comment (JovanGerb) [inline Mathlib/Topology/MetricSpace/Similarity.lean:83]: This lemma is essentially a duplicate of `of_exists_pairwise_edist_eq`. I think we should have just one lemma, with just one of these possible hypotheses:
-  `(h : ∃ r, r ≠ 0 ∧ ..) `
-  `(r : _) (hr : r ≠ 0) (h : ..)`

Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Similarity.lean]: Removed that duplicate (I removed the `dist` and `nndist` versions previously).

File: Mathlib/Topology/MetricSpace/Similarity.lean [hunk 11]
```diff
@@ -0,0 +1,184 @@
...
+## Notation
+Let `P₁` and `P₂` be metric spaces, let `ι` be an index set, and let `v₁ : ι → P₁` and
+`v₂ : ι → P₂` be indexed families of points.
+
+* `(v₁ ∼ v₂ : Prop)` represents that `(v₁ : ι → P₁)` and `(v₂ : ι → P₂)` are similar.
+-/
+
+variable {ι ι' : Type*} {P₁ P₂ P₃ : Type*} {v₁ : ι → P₁} {v₂ : ι → P₂} {v₃ : ι → P₃}
+
+noncomputable section
```
Comment (JovanGerb) [inline Mathlib/Topology/MetricSpace/Similarity.lean:28]: What definition requires being noncomputable?

Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Similarity.lean]: It turns out it's not needed, so I've removed the `noncomputable`.

**Comment by JovanGerb** [comment]
I think this is ready now.

The analogous changes that should be made in `Congruent` are removing the `noncomputable section` and renaming the lemma `congruence_comm` to `congruent_comm`.

**Comment by JovanGerb** [comment]
One more suggestion: replace `r : NNReal` with `r : ℝ≥0`. And add the required `open scoped NNReal` to the start of the file.

**Comment by jsm28** [comment]
Made that change to use `ℝ≥0`.

**Comment by kbuzzard** [comment]
Thank you very much Joseph for resurrecting this PR and to Jovan for the review!

bors merge
